US08110580B2
3-(5-Bromo-3-chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Dissolve 3-(3-chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (1.16 g, 3.5 mmol) in dichloromethane (15 mL) and add N-bromosuccinimide (0.69 g, 3.85 mmol) in one aliquot. Stir 2 h under an inert atmosphere and confirm the reaction is complete using TLC. Dilute the reaction with dichloromethane (50 mL), wash with water (75 mL), brine (50 mL), dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure to give a yellow solid (1.56 g, quantative yield). 1H NMR (400 MHz, DMSO): 7.39 (s, 1H), 6.88 (s, 1H), 3.48-3.44 (m, 1H), 2.45 (s, 3H), 2.39 (s, 3H), 1.80-1.73 (m, 4H), 0.76 (t, J=7.0 Hz, 6H).

reactant | 3-(3-chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 3.5 mmol, 1.16 g | ClC1=C(SC=C1)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C17H20ClN3S
reactant | N-bromosuccinimide | 3.85 mmol, 0.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(5-Bromo-3-chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | BrC1=CC(=C(S1)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
